US06201019B1
4-(5,5,8,8-Tetramethyl-5,6,7,8-tetrahydro-2-naphthylsulphanylethynyl)benzoic acid
A solution of methyl 4-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthylsulphanylethynyl)benzoate (590 mg, 1.6 mmol) and of lithium hydroxide (383 mg, 9.3 mmol) in THF is refluxed for 24 hours. The reaction mixture is poured into an Et2O/water mixture, acidified to pH 1 with concentrated hydrochloric acid solution, and extracted once with ethyl ether. After separation of the phases by settling, the organic phase is washed twice with water, dried over magnesium sulphate and concentrated on a rotary evaporator under vacuum at 40° C. The solid obtained is crystallized from heptane and 440 mg (77%) of a white solid are obtained. m.p. (melting point)=193.5° C.

reactant | methyl 4-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthylsulphanylethynyl)benzoate | 1.6 mmol, 590 mg | CC1(C=2C=CC(=CC2C(CC1)(C)C)SC#CC1=CC=C(C(=O)OC)C=C1)C | C24H26O2S
reactant | lithium hydroxide | 9.3 mmol, 383 mg | [OH-].[Li+]
reactant | Et2O water | CCOCC.O
reactant | hydrochloric acid | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
product | 4-(5,5,8,8-Tetramethyl-5,6,7,8-tetrahydro-2-naphthylsulphanylethynyl)benzoic acid | CC1(C=2C=CC(=CC2C(CC1)(C)C)SC#CC1=CC=C(C(=O)O)C=C1)C | C23H24O2S
